US04152433
To a suspension of 2-methyl-b 7-[2-methoxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (9.0 g.) in methanol (90 ml.) was added concentrated hydrochloric acid (2.12 ml.) with stirring at room temperature, and the mixture was stirred for 7 hours at the same temperature. To the reaction mixture was gradually added diethyl ether till crystals started to precipitate. The mixture was allowed to stand for 30 minutes, and the precipitated crystals were collected by filtration, washed with diethyl ether and then dried to give white crystals of 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer), (7.9 g.) The remaining filtrate was concentrated till the total volume became half. To the concentrated filtrate was gradully added diethyl ether till crystals started to precipitate, and the mixture was allowed to stand for 1 hour. The precipitated crystals were collected by filtration, washed with diethyl ether and then dried to give further the same object compound (0.5 g.).

reactant | 2-methyl-7-[2-methoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2NC(SC2)=NC=O)=NOC)=O)=O | C15H15N5O6S2
reactant | hydrochloric acid | 2.12 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 90 ml | CO | CH4O
product | 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | InChI=1S/C14H15N5O5S2.ClH/c1-5-3-7(13(22)23)19-11(21)9(12(19)26-5)17-10(20)8(18-24-2)6-4-25-14(15)16-6;/h3-5,9,12H,1-2H3,(H2,15,16)(H,17,20)(H,22,23);1H/t5?,9?,12-;/m1./s1
